US04588727
1-Amino-2-(2-chlorobenzoyl)pyrrole
2-(2-chlorobenzoyl)-1-phthalimidopyrrole (40 g, 0.114 mol) was suspended in 350 ml of 95% ethanol. To this rapidly stirred slurry was added 50 ml of a 40% aqueous solution of methylamine over 10 minutes. After 2.5 hours of rapid stirring the mixture was diluted with 400 ml of water and extracted with four 200 ml portions of ether. The combined extracts were washed with water, dried over anhydrous MgSO4, filtered and evaporated to an oil which solidified upon standing. Trituration of this solid with hexane and collection upon a filter yielded 23.6 g (94%) of solid, m.p. 76°-78°.

reactant | 2-(2-chlorobenzoyl)-1-phthalimidopyrrole | 0.114 mol, 40 g | ClC1=C(C(=O)C=2N(C=CC2)N2C(C=3C(C2=O)=CC=CC3)=O)C=CC=C1 | C19H11ClN2O3
reactant | methylamine | CN | CH5N
solvent | ethanol | 350 ml | C(C)O | C2H6O
solvent | water | 400 ml | O | H2O
product | 1-Amino-2-(2-chlorobenzoyl)pyrrole | 23.6 g, 94% | NN1C(=CC=C1)C(C1=C(C=CC=C1)Cl)=O | C11H9ClN2O
